US08119806B2
Methyl (1S,3R,4R)-3-ethyl-4-hydroxy-cyclopentanecarboxylate
To a suspension of copper(I) iodide (4.95 g, 26.0 mmol) in 50 ml ether at −25° C. was added ethyllithium (1.7M, 30.6 ml, 52.0 mmol) dropwise. The solution was stirred for 1 hr at −25° C. followed by dropwise addition of an ether solution (50 ml) of methyl (1S,5R)-6-oxabicyclo[3.1.0]hexane-3-carboxylate (1.848 g, 13 mmol) maintaining at −25° C. The reaction was allowed to warm to rt until TLC showed complete reaction. Cooled in ice and quenched with NH4Cl (sat)(5 ml) and stirred for 10 minutes. Filtered thru celite and washed with ether (3×10 ml) and the combined filtrates were washed with brine and dryed over sodium sulfate. Silica gel chromatagraphy on a 25 g Biotage SNAP column with 10-50% MTBE/Hexane afforded title compound. 1H NMR (500 MHz, CDCl3) δ 0.96 (t, J=7.3 Hz, 3H), δ 1.24-1.48 (m, 2H), δ 1.54-1.77 (m, 3H), δ 1.83-1.90 (m, 1H), δ 2.12-2.29 (m, 2H), δ 3.02 (m, 1H), δ 3.69 (s, 3H), δ 3.98 (m, 1H)

reactant | ethyllithium | 52.0 mmol, 1.7M, 30.6 ml | C(C)[Li]
reactant | methyl (1S,5R)-6-oxabicyclo[3.1.0]hexane-3-carboxylate | 13 mmol, 1.848 g | [C@@H]12CC(C[C@H]2O1)C(=O)OC | C7H10O3
solvent | ether | 50 ml | CCOCC | C4H10O
catalyst | copper(I) iodide | 26.0 mmol, 4.95 g | [Cu]I
solvent | ether | 50 ml | CCOCC | C4H10O
product | Methyl (1S,3R,4R)-3-ethyl-4-hydroxy-cyclopentanecarboxylate | C(C)[C@@H]1C[C@@H](C[C@H]1O)C(=O)OC | C9H16O3
